US09120749B2
tert-butyl 4-(5-(3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino) pyridin-2-yl)piperazine-1-carboxylate
Following general procedure D, tert-butyl 4-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyridin-2-yl)piperazine-1-carboxylate (55 mg, 0.104 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (36 mg, 0.125 mmol) to afford the desired product (65 mg, 72%) as an green oil: ESI MS m/z 608, [C31H31Cl2N5O4+H]+

reactant | tert-butyl 4-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyridin-2-yl)piperazine-1-carboxylate | 0.104 mmol, 55 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)Br | C25H28BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.125 mmol, 36 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-butyl 4-(5-(3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino) pyridin-2-yl)piperazine-1-carboxylate | 65 mg, 72% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C31H31Cl2N5O4
